US04536209
Production of N-[4-chloro-3-cyanomethoxyphenyl]-3,4,5,6-tetrahydrophthalimide
A mixture of 1.52 g. of cyclohexane-1,2-dicarboxylic anhydride, 1.83 g. of 4-chloro-3-cyanomethoxyaniline (melting point 89°-90° C.) and 8 ml. of acetic acid was refluxed with stirring for 2.5 hours. The solvent was distilled off under a reduced pressure and then, water was added to obtain a crude crystal. The product was recrystallized from methanol to obtain 2.83 g. of Compound No. 228 shown in Table 1.

reactant | cyclohexane-1,2-dicarboxylic anhydride | C12C(CCCC1)C(=O)OC2=O | C8H10O3
reactant | 4-chloro-3-cyanomethoxyaniline | ClC1=C(C=C(N)C=C1)OCC#N | C8H7ClN2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[4-chloro-3-cyanomethoxyphenyl]-3,4,5,6-tetrahydrophthalimide | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OCC#N | C16H13ClN2O3
